US08030435B2
A mixture of 15 grams (0.1 moles) of 2-carboxybenzaldehyde and 17.82 grams of 2,4,4-trimethylpentyl phosphinic acid in 100 mL of xylene is heated to reflux and 1.8 mL of water is collected by azeotropic distillation using a Dean-Stark receiver. The xylene solvent is removed in vacuo and the residue is crystallized with a mixture of 50 mL of ethyl acetate and 100 mL heptane to yield 17.2 grams (56% yield) (3-oxo-1,3-dihydro-isobenzofuran-1-yl)-(2,4,4-trimethylpentyl)-phosphinic acid as an off-white powder, mp 117-121° C.

reactant | 2-carboxybenzaldehyde | 0.1 moles, 15 grams | C(=O)(O)C1=C(C=O)C=CC=C1 | C8H6O3
reactant | 2,4,4-trimethylpentyl phosphinic acid | 17.82 grams | CC(CP(O)=O)CC(C)(C)C | C8H19O2P
solvent | xylene | 100 mL | C=1(C(=CC=CC1)C)C | C8H10
product | (3-oxo-1,3-dihydro-isobenzofuran-1-yl)-(2,4,4-trimethylpentyl)-phosphinic acid | 17.2 grams, 56% yield | O=C1OC(C2=CC=CC=C12)P(O)(=O)CC(CC(C)(C)C)C | C16H23O4P
